US07378417B2
5-(3,4-Dichloro-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-cyclopropylsulfamoyl-phenyl)-amide
The title compound was prepared from 5-(3,4-dichloro-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.7) and 3-amino-N-cyclopropyl-benzenesulfonamide [CAS 459434-39-0] according to general procedure II. Light yellow solid. MS (ISP) 550.0 [(M−H)−]; mp 254° C.

reactant | 5-(3,4-dichloro-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC=1C=C(C=CC1Cl)C1=NC=2N(C(=C1)C(F)F)N=CC2C(=O)O | C14H7Cl2F2N3O2
reactant | 3-amino-N-cyclopropyl-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NC1CC1 | C9H12N2O2S
product | 5-(3,4-Dichloro-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-cyclopropylsulfamoyl-phenyl)-amide | C1(CC1)NS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC(=C(C=C2)Cl)Cl | C23H17Cl2F2N5O3S
